US05665718
1.0 ml (5.75 mmol) of chloroacetic anhydride was added to a suspension of 1.59 g (5.0 mmol) of (E)- and/or (Z)-1-(amino-hydroximino-methyl)-7-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one in 10 ml of N,N-dimethylformamide under argon and the mixture was stirred at about 25° for 1 hr. and thereupon heated to 110° for 1 hr. The solution was evaporated in a high vacuum and the brown residue obtained was dissolved in 120 ml of methylene chloride. The solution was washed three times with 20 ml of saturated sodium hydrogen carbonate solution and the solvent was removed in a vacuum. The crude material was chromatographed on 80 g of silica gel (methylene chloride/acetone 9:1, then 4:1). After drying in a high vacuum there were obtained 1.47 g (78%) of (S)-7-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one as colourless crystals of m.p. 238°-241° (acetonitrile).

reactant | chloroacetic anhydride | 5.75 mmol, 1.0 ml | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | (Z)-1-(amino-hydroximino-methyl)-7-chloro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | N\C(\C=1N=CN2C1C1N(C(C3=C2C=CC(=C3)Cl)=O)CC1)=N/O | C14H12ClN5O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | (S)-7-chloro-1-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 1.47 g, 78% | ClC=1C=CC2=C(C(N3[C@H](C=4N2C=NC4C4=NOC(=N4)CCl)CC3)=O)C1 | C16H11Cl2N5O2
